US08604021B2
1-(5-Chlorobenzo[d][1,3]-dioxol-7-yl)ethanamine
1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethanol (155 mg, 0.77 mmol) was dissolved in 6 mL of dichloromethane. PCC (416 mg, 1.93 mmol) was added portionwise and the mixture was stirred for 16 h (reaction is likely to be completed earlier). The mixture was filtered through a plug of celite. The solvent was removed by rotary evaporation to collect the desired product (90 mg, 59% yield). 1H NMR (400 MHz, CDCl3): δ 7.36 (d, 1H), 6.96 (d, 1H), 6.14 (s, 2H), 2.59 (s, 3H).

reactant | 1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethanol | 0.77 mmol, 155 mg | ClC1=CC2=C(OCO2)C(=C1)C(C)O | C9H9ClO3
reactant | PCC | 1.93 mmol, 416 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-(5-Chlorobenzo[d][1,3]-dioxol-7-yl)ethanamine | 90 mg, 59% yield | ClC1=CC2=C(OCO2)C(=C1)C(C)N | C9H10ClNO2
